US07115611B2
A] 2-{4-[4-Cyclopropyl-6-methoxymethyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester
A solution of 200 mg (0.56 mmol) 5-chloromethyl-4-cyclopropyl-6-methoxymethyl-2-(4-trifluoromethyl-phenyl)-pyrimidine (example 113H]), 134 mg (0.56 mmol) 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (described in WO 02/092590) and 237 mg (0.73 mmol) cesium carbonate in 3 ml DMF was stirred for 3 h at RT. The reaction mixture was taken up in ether and washed with 1N HCl and water. After purification of the crude product by chromatography over silica gel with AcOEt/heptane 1:3, 257 mg of pure 2-{4-[4-cyclopropyl-6-methoxymethyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy-2-methyl-propionic acid ethyl ester could be isolated.

reactant | 5-chloromethyl-4-cyclopropyl-6-methoxymethyl-2-(4-trifluoromethyl-phenyl)-pyrimidine | 0.56 mmol, 200 mg | ClCC=1C(=NC(=NC1COC)C1=CC=C(C=C1)C(F)(F)F)C1CC1 | C17H16ClF3N2O
reactant | 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | 0.56 mmol, 134 mg | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)C)=O | C13H18O4
reactant | cesium carbonate | 0.73 mmol, 237 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 2-{4-[4-Cyclopropyl-6-methoxymethyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC=1C(=NC(=NC1COC)C1=CC=C(C=C1)C(F)(F)F)C1CC1)C)=O | C30H33F3N2O5
